### PR TITLE
[Merged by Bors] - feat(Algebra/Order/{Monoid,GroupWithZero}/Lex): ordered inclusions and projections of prod of ordered groups

### PR DESCRIPTION
**Pull request by pechersky**
---

- [x] depends on: #22402 
- [x] depends on: #25466
- [x] depends on: #25660

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Prod/Lex/Hom.lean [hunk 1]
```diff
@@ -0,0 +1,20 @@
...
+import Mathlib.Data.Prod.Lex
+import Mathlib.Order.Hom.Basic
+
+/-!
+# Order homomorphism for `Prod.Lex`
+-/
+
+/-- `toLex` as an `OrderHom`. -/
+@[simps]
+def Prod.Lex.orderHom {α β : Type*} [PartialOrder α] [Preorder β] :
```
Comment (eric-wieser) [inline Mathlib/Order/Prod/Lex/Hom.lean:15]: perhaps
```suggestion
def Prod.Lex.toLexOrderHom {α β : Type*} [PartialOrder α] [Preorder β] :
```

File: Mathlib/Order/Prod/Lex/Monoid.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+def inr : β →*o α × β where
+  __ := MonoidHom.inr _ _
+  monotone' _ _ := by simp
+
+/-- Given ordered monoids M, N, the natural projection ordered homomorphism from M × N to M. -/
+@[to_additive (attr := simps!) "Given ordered additive monoids M, N, the natural projection ordered
+homomorphism from M × N to M."]
+def fst : α × β →*o α where
+  __ := MonoidHom.fst _ _
+  monotone' _ _ := by simp +contextual [Prod.le_def]
```
Comment (eric-wieser) [inline Mathlib/Order/Prod/Lex/Monoid.lean:47]:
```suggestion
  monotone' := monotone_fst
```
etc. I think every proof in this file probably should have a single lemma you can invoke.

File: Mathlib/Order/Prod/Lex/GroupWithZero.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+
+namespace LinearOrderedCommGroupWithZero
+
+variable (α β : Type*) [LinearOrderedCommGroupWithZero α] [LinearOrderedCommGroupWithZero β]
+
+/-- Given linearly ordered groups with zero M, N, the natural inclusion ordered homomorphism from
+M to `WithZero (Mˣ ×ₗ Nˣ)`, which is the linearly ordered group with zero that can be identified
+as their product. -/
+@[simps!]
+def inl : α →*₀o WithZero (Lex (αˣ × βˣ)) where
```
Comment (eric-wieser) [inline Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: I'm struggling to understand why `WithZero (Lex (αˣ × βˣ))` is interesting; identifying the two zeros seems like a strange operation.

Comment (pechersky) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: If I have two different rank one valuations on a (higher local) field like Q_p((t)), then I can construct a new rank two valuation, mapping into the product of the codomains of the individual valuations, such that the rank one valuations commute with the projections.

Comment (eric-wieser) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: I guess my claim is that this map is actually hiding a composition of smaller maps; for instance, that `α →*₀o WithZero (αˣ)`, and that `α →*o β` lifts to `WithZero α →*o WithZero β`. Can you add these pieces?

Comment (pechersky) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: We have mul order isos between X and WithZero (Units X), as well as the equiv between mul isos between X and Y and WithZero X and WithZero Y (MulEquiv.withZero). Would you prefer this construction called out to those explicitly instead of directly constructing the terms?

Comment (eric-wieser) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: Yes, I think so; but also, the final construction seems very contrived and valuation centric, so perhaps it belongs in a file about valuations instead?

Comment (pechersky) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: You could imagine a category of linearly ordered comm groups with zero, and this would be the way that the (co)product would be constructed. And these are the homs.

Comment (pechersky) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: If one used those equivs, it becomes nastier because of the WithZero.rec term when casing on the nonzero branch of WithZero (Units X).

Comment (eric-wieser) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]: > You could imagine a category of linearly ordered comm groups with zero, and this would be the way that the ~co~product would be constructed. And these are the homs.

Thanks, this is the interpretation I was missing. Do we have the version for the co-product of groups with zero? I think referencing that (after creating it) would make the picture clearer.

Comment (YaelDillies) [inline Mathlib/Order/Prod/Lex/GroupWithZero.lean:33]:
```suggestion
def inl : α →*₀o WithZero (αˣ ×ₗ βˣ) where
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Order/Prod/Lex/GroupWithZero.lean (hunk 3 above)
Comment (pechersky) [reply Mathlib/Order/Prod/Lex/GroupWithZero.lean]: Now merged to refer to group with zero constructions.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 4]
```diff
@@ -139,6 +139,12 @@ lemma map'_map'  (f : α →* β) (g : β →* γ) (x) : map' g (map' f x) = map
 lemma map'_comp (f : α →* β) (g : β →* γ) : map' (g.comp f) = (map' g).comp (map' f) :=
   MonoidWithZeroHom.ext fun x => (map'_map' f g x).symm
 
+lemma map'_injective {f : α →* β} (hf : Function.Injective f) :
+    Function.Injective (WithZero.map' f) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: Can you upgrade this to an iff?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 5]
```diff
@@ -351,6 +361,11 @@ protected lemma le_max_iff : (a : WithZero α) ≤ max (b : WithZero α) c ↔ a
 protected lemma min_le_iff : min (a : WithZero α) b ≤ c ↔ min a b ≤ c := by
   simp only [WithZero.coe_le_coe, min_le_iff]
 
+lemma map'_strictMono {β : Type*} [MulOneClass α] [MulOneClass β] [PartialOrder β]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: This is still true, but your proof breaks:
```suggestion
lemma map'_strictMono {β : Type*} [MulOneClass α] [MulOneClass β] [Preorder β]
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 6]
```diff
@@ -926,15 +926,31 @@ end Mul
...
 
 variable {hα : Preorder α} {hα' : MulZeroOneClass α} {hβ : Preorder β} {hβ' : MulZeroOneClass β}
+  {hγ : Preorder γ} {hγ' : MulZeroOneClass γ}
 
 @[simp]
 theorem toMonoidWithZeroHom_eq_coe (f : α →*₀o β) : f.toMonoidWithZeroHom = f := by
   rfl
 
+@[simp]
+theorem coe_monoidWithZeroHom_mk (f : α →*₀ β) (hf : Monotone f) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]:
```suggestion
theorem coe_mk (f : α →*₀ β) (hf : Monotone f) :
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 7]
```diff
@@ -926,15 +926,31 @@ end Mul
...
+    ((OrderMonoidWithZeroHom.mk f hf) : α →*₀ β) = f := by
+  rfl
+
+@[simp]
+lemma comp_coe_monoidWithZeroHom (f : β →*₀o γ) (g : α →*₀o β) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]:
```suggestion
lemma coe_monoidWithZeroHom_comp (f : β →*₀o γ) (g : α →*₀o β) :
```
or even
```suggestion
lemma toMonoidWithZeroHom_comp (f : β →*₀o γ) (g : α →*₀o β) :
```
which is (currently) a slight abuse of the naming convention, but won't be anymore after #21031

File: Mathlib/Order/Prod/Lex/Monoid.lean
Comment (YaelDillies) [inline Mathlib/Order/Prod/Lex/Monoid.lean:1]: This should be under `Algebra.Order`

**Review by YaelDillies — COMMENTED** [review]
You are still introducing two new 150 lines files AND modifying existing files. Is there any prereq PR you could split off?

File: Mathlib/Algebra/Order/Hom/Monoid.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Algebra/Order/Hom/Monoid.lean]: Can't, `coe_mk` refers to coercion of the OrderMonoidWithZeroHom to a plain function.

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean [hunk 8]
```diff
@@ -0,0 +1,153 @@
...
+
+This file defines order homomorphisms for products of linearly ordered groups with zero,
+which is identified with the `WithZero` of the lexicographic product of the units of the groups.
+
+The product of linearly ordered groups with zero `WithZero (αˣ ×ₗ βˣ)` is a
+linearly ordered group with zero itself with natural inclusions but only one projection.
+One has to work with the lexicographic product of the units `αˣ ×ₗ βˣ` since otherwise,
+the plain product `αˣ × βˣ` would not be linearly ordered.
+
+TODO: Create the "LinOrdCommGrpWithZero" category.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Lex.lean]:
```suggestion
## TODO

Create the "LinOrdCommGrpWithZero" category.
```

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean [hunk 9]
```diff
@@ -0,0 +1,153 @@
...
+  obtain rfl | ⟨x, rfl⟩ := GroupWithZero.eq_zero_or_unit x <;>
+  obtain rfl | ⟨y, rfl⟩ := GroupWithZero.eq_zero_or_unit y <;>
+  · simp [WithZero.zero_le, WithZero.withZeroUnitsEquiv]
+
+lemma inr_strictMono [GroupWithZero M₀] [PartialOrder M₀] [LinearOrderedCommGroupWithZero N₀]
+    [DecidablePred fun x : N₀ ↦ x = 0] : StrictMono (MonoidWithZeroHom.inr M₀ N₀) :=
+  inr_mono.strictMono_of_injective inr_injective
+
+lemma fst_mono [LinearOrderedCommGroupWithZero M₀] [GroupWithZero N₀] [Preorder N₀] :
+    Monotone (MonoidWithZeroHom.fst M₀ N₀) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Lex.lean]: Does this not work?
```suggestion
    Monotone (fst M₀ N₀) := by
```
Same elsewhere

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean [hunk 10]
```diff
@@ -0,0 +1,153 @@
...
+  intro x y
+  cases x <;> cases y
+  · simp
+  · simp
+  · simp [WithZero.coe_le_iff]
+  · simp +contextual [fst, Prod.le_def]
+
+lemma snd_mono [GroupWithZero M₀] [Preorder M₀] [LinearOrderedCommGroupWithZero N₀] :
+    Monotone (MonoidWithZeroHom.snd M₀ N₀) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Lex.lean]: Can you reuse a version of my `simp [WithZero.forall]` trick?

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean [hunk 11]
```diff
@@ -0,0 +1,153 @@
...
+    ⇑(toLexMulEquiv G H).symm = ofLex :=
+  rfl
+
+@[simp]
+lemma coe_toEquiv_toLexMulEquiv (G H : Type*) [MulOneClass G] [MulOneClass H] :
+    ⇑(toLexMulEquiv G H : G × H ≃ G ×ₗ H) = toLex :=
+  rfl
+
+@[simp]
+lemma coe_symm_toEquiv_toLexMulEquiv (G H : Type*) [MulOneClass G] [MulOneClass H] :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Lex.lean]:
```suggestion
lemma toEquiv_symm_toLexMulEquiv (G H : Type*) [MulOneClass G] [MulOneClass H] :
```
or something? Or is there more than one coercion here?

File: Mathlib/Algebra/Order/Hom/Monoid.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Hom/Monoid.lean]: Ah! What about
```suggestion
theorem toMonoidWithZero_mk (f : α →*₀ β) (hf : Monotone f) :
```

File: Mathlib/Algebra/Order/Monoid/Lex.lean [hunk 12]
```diff
@@ -0,0 +1,152 @@
...
+  __ := (Prod.Lex.toLexOrderHom).comp (inl α β)
+  map_one' := rfl
+  map_mul' := by simp [← toLex_mul]
+
+/-- Given ordered monoids M, N, the natural inclusion ordered homomorphism from N to the
+lexicographic M ×ₗ N. -/
+@[to_additive (attr := simps!) "Given ordered additive monoids M, N, the natural inclusion ordered
+homomorphism from N to the lexicographic M ×ₗ N."]
+def inrₗ : β →*o (α ×ₗ β) where
+  __ := (Prod.Lex.toLexOrderHom).comp (inr α β)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Lex.lean]: That's evil!

File: Mathlib/Algebra/Order/Monoid/Lex.lean [hunk 13]
```diff
@@ -0,0 +1,152 @@
...
+/-!
+# Order homomorphisms for products of ordered monoids
+
+This file defines order homomorphisms for products of ordered monoids, for both the plain product
+and the lexicographic product.
+
+The product of ordered monoids `α × β` is an ordered monoid itself with both natural inclusions
+and projections, making it the coproduct as well.
+
+TODO: Create the "OrdCommMon" category.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/Lex.lean]:
```suggestion
## TODO

Create the "OrdCommMon" category.
```

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 14]
```diff
@@ -926,15 +926,31 @@ end Mul
...
+lemma toMonoidWithZeroHom_coe (f : β →*₀o γ) (g : α →*₀o β) :
+    (f.comp g : α →*₀ γ) = (f : β →*₀ γ).comp g :=
+  rfl
+
 @[simp]
 theorem toOrderMonoidHom_eq_coe (f : α →*₀o β) : f.toOrderMonoidHom = f :=
   rfl
 
+@[simp]
+lemma comp_coe_orderMonoidHom (f : β →*₀o γ) (g : α →*₀o β) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Hom/Monoid.lean]: I would suggest
```suggestion
lemma toOrderMonoidHom_comp (f : β →*₀o γ) (g : α →*₀o β) :
```
for clarity

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean [hunk 15]
```diff
@@ -0,0 +1,148 @@
...
+    · simpa using Prod.Lex.monotone_fst _ _
+
+@[simp]
+theorem fst_comp_inl : (fst _ _).comp (inl α β) = .id α := by
+  ext x
+  obtain rfl | ⟨_, rfl⟩ := GroupWithZero.eq_zero_or_unit x <;>
+  simp
+
+theorem inlₗ_mul_inrₗ_eq_coe_toLex {m : α} {n : β} (hm : m ≠ 0) (hn : n ≠ 0) :
+    (inl α β m * inr α β n) = toLex (Units.mk0 _ hm, Units.mk0 _ hn) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Lex.lean]:
```suggestion
    inl α β m * inr α β n = toLex (Units.mk0 _ hm, Units.mk0 _ hn) := by
```
Is there no `inrₗ_mul_inlₗ` version?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/Monoid/Lex.lean (hunk 12 above)
Comment (pechersky) [reply Mathlib/Algebra/Order/Monoid/Lex.lean]: Which is the evil part?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Monoid/Lex.lean]: I would have expected
```suggestion
  __ := Prod.Lex.toLexOrderHom.comp (inr α β)
```

**Comment by jcommelin** [comment]
bors d+

File: Mathlib/Algebra/Order/GroupWithZero/Lex.lean (hunk 15 above)
Comment (pechersky) [reply Mathlib/Algebra/Order/GroupWithZero/Lex.lean]: Not sure what that would give differently, since this is over a commgroup
